US08669229B2
Tolvaptan (1.0 g, 2.2 mmol) was suspended in toluene (7 ml). 2-Chloroethyl isocyanate (0.28 ml, 3.3 mmol) and 4-dimethylaminopyridine (DMAP) (27 mg, 0.22 mmol) were added thereto, and the mixture was stirred at 80° C. for 24 hours. After cooling to room temperature, the insoluble materials were filtered off and washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (n-hexane:ethyl acetate=54:46→33:67). The purified product was concentrated under reduced pressure to obtain 1.0 g of {7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl}(2-chloroethyl)carbamate as white amorphous solid.

reactant | Tolvaptan | 2.2 mmol, 1.0 g | CC=1C=CC=CC1C(=O)NC=2C=CC(=C(C2)C)C(=O)N3CCCC(C4=C3C=CC(=C4)Cl)O | C26H25ClN2O3
reactant | 2-Chloroethyl isocyanate | 3.3 mmol, 0.28 ml | ClCCN=C=O | C3H4ClNO
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 0.22 mmol, 27 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | {7-chloro-1-[2-methyl-4-(2-methyl-benzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl}(2-chloroethyl)carbamate | 1.0 g | ClC1=CC2=C(N(CCCC2OC(NCCCl)=O)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C)=O)C=C1 | C29H29Cl2N3O4
